US04946856
5-(4-Chlorophenyl)-2,4-dihydro-4-ethyl-2-methyl-3H-1,2,4-triazol-3-one
To a stirred, room temperature solution of 5-(4-chlorophenyl)-2,4-dihydro-4-ethyl-3H-1,2,4-triazol-3-one (6.00 g, 2.68×10-2 mole) and 1 molar aqueous NaOH (30.0 ml, 3.00×10-2 mole) was added a solution of methyl iodide (2.5 ml, 4.0×10-2 mole) and ethanol (10 ml). After stirring overnight at room temperature, the reaction mixture was transferred to a separatory funnel where it was extracted three times with EtOAc. The EtOAc extracts were combined, washed with saturated aqueous NaCl, and dried over Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving an oil which slowly solidified. Chromatography and crystallization from cyclohexane gave small colorless needles: 3.4 g (53%), mp 73°-75°.

reactant | 5-(4-chlorophenyl)-2,4-dihydro-4-ethyl-3H-1,2,4-triazol-3-one | 2.68×10-2 mole, 6.00 g | ClC1=CC=C(C=C1)C=1N(C(NN1)=O)CC | C10H10ClN3O
reactant | NaOH | 3.00×10-2 mole, 1 molar, 30.0 ml | [OH-].[Na+]
reactant | methyl iodide | 4.0×10-2 mole, 2.5 ml | CI | CH3I
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-(4-Chlorophenyl)-2,4-dihydro-4-ethyl-2-methyl-3H-1,2,4-triazol-3-one | ClC1=CC=C(C=C1)C=1N(C(N(N1)C)=O)CC | C11H12ClN3O
